US07282512B2
A −78° C. solution of 200 mg (0.32 mmol) of [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate in 10 mL of dichloromethane was treated with a stream of ozone for 15 min before being purged with a stream of nitrogen for 5 min. To the reaction was added a solution of 26 mg (0.32 mmol) of 3-aminopyrazole in 1 mL of dichloromethane. The reaction was stirred for 30 min and concentrated under reduced pressure. The residue was dissolved in 5 mL of a 1M solution of silver nitrate in 4:1 tetrahydrofuran:water. The reacton was stirred at room temperature for 18 h and diluted with water. The mixture was extracted with dichloromethane, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel chromatography eluting with 3.5:6.5 acetone:hexanes to afford 30 mg (21%) of [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-[oxo(1H-pyrazol-5-ylamino)acetyl]pentylcarbamate. 1H NMR (300 MHz, 80° C., DMSO-d6) δ 7.65 (s, 1H), 7.42 (s, 1H), 7.22 (t, J=6 Hz, 2H), 7.08 (t, J=9 Hz, 2H), 6.54 (s, 1H), 4.93 (m, 1H), 3.82 (s, 2H), 2.78 (s, 2H), 1.70-1.95 (m, 2H), 1.61 (m, 2H), 1.38 (m, 4H), 0.91 (t, J=7 Hz, 3H). ES-LCMS m/z 467 (M+Na). HRMS C23H29N4O4F1 m/z 467.2071 (M+Na)Cal; 467.2073 (M+Na)Obs.

reactant | [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-[cyano(triphenylphosphoranylidene)acetyl]pentylcarbamate | 0.32 mmol, 200 mg | C(#N)C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H40FN2O3P
reactant | ozone | O=[O+][O-] | O3
reactant | 3-aminopyrazole | 0.32 mmol, 26 mg | NC1=NNC=C1 | C3H5N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | [1-(4-fluorobenzyl)cyclobutyl]methyl(1S)-1-[oxo(1H-pyrazol-5-ylamino)acetyl]pentylcarbamate | 30 mg, 21% | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)CC1=CC=C(C=C1)F)=O)NC1=CC=NN1 | C23H29FN4O4
